US06756378B2
To a stirred solution of methyl 4-[5-(R)-phenyl-2-(S)-pirrolidinylmethoxy]benzoate (146 mg, 0.47 mmol), 4-[N′-(2-bromophenyl)ureido]-3-methoxyphenylacetic acid (178 mg, 0.47 mmol) and N,N-dimethylaminopyridine (57.4 mg, 0.47 mmol) in DMF (10 ml) was added EDC.HCl (99.0 mg, 0.52 mmol) at rt, and the resulting mixture was stirred overnight. The reaction mixture was poured into water and extracted with EtOAc. The organic layer was washed with brine, drying over anhydrous Na2SO4, then concentrated in vacuo. The residue was chromatographed on silica gel with hexane-EtOAc (1:5) as eluent to give methyl 4-[1-[4-[N′-(2-bromophenyl)ureido]-3-methoxyphenylacetyl]-5-(R)-phenyl-2-(S)-pyrrolidinylmethoxy]benzoate (288 mg, 91%) as a colorless amorphous solid. 1H-NMR (CDCl3) δ2.00-2.20 (m, 3 H), 2.34-2.43 (m, 1 H), 3.35 (s, 2 H), 3.72 (s, 3 H), 3.89 (s, 3 H), 4.38-4.49 (m, 2 H), 4.62 (brs, 1 H), 4.94 (t, J=7.2 Hz, 1 H), 6.54 (d, J=8.4 Hz, 1 H), 6.67 (s, 1 H), 6.91-7.05 (m, 4 H), 7.28-7.42 (series of m, 7 H), 7.51 (d, J=8.0 Hz, 2 H), 7.87 (d, J=8.4 Hz, 1 H), 7.99 (d, J=8.8 Hz, 2 H), 8.14 (d, J=8.4 Hz, 2H); MS (ESI) m/z, 672 (M+), 674 (M++2).

reactant | methyl 4-[5-(R)-phenyl-2-(S)-pirrolidinylmethoxy]benzoate | 0.47 mmol, 146 mg | C1(=CC=CC=C1)[C@H]1CC[C@H](N1)COC1=CC=C(C(=O)OC)C=C1 | C19H21NO3
reactant | 4-[N′-(2-bromophenyl)ureido]-3-methoxyphenylacetic acid | 0.47 mmol, 178 mg | BrC1=C(C=CC=C1)NC(NC1=C(C=C(C=C1)CC(=O)O)OC)=O | C16H15BrN2O4
reactant | EDC.HCl | 0.52 mmol, 99.0 mg | CCN=C=NCCCN(C)C.Cl
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | methyl 4-[1-[4-[N′-(2-bromophenyl)ureido]-3-methoxyphenylacetyl]-5-(R)-phenyl-2-(S)-pyrrolidinylmethoxy]benzoate | 288 mg, 91% | BrC1=C(C=CC=C1)NC(NC1=C(C=C(C=C1)CC(=O)N1[C@@H](CC[C@@H]1C1=CC=CC=C1)COC1=CC=C(C(=O)OC)C=C1)OC)=O | C35H34BrN3O6
